US08420812B2
3-Hept-1-ynyl-pyridine
This product was prepared from toluene-4-sulfonic acid pyridin-3-yl ester and 1-heptyne following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/EtOAc 8:2; yield (60 mg, 70%); 1H NMR δ (CDCl3): 8.62-8.63 (m, 1H), 8.48-8.46 (m, 1H), 7.68-7.64 (m, 1H), 7.21-7.17 (m, 1H), 2.46 (t, J=7.21 Hz, 2H), 1.63 (p, J=7.15 Hz, 2H), 1.49-1.3 (m, 4H), 0.93 (t, J=7.22 Hz, 3H); LCMS m/z: 173.

reactant | toluene-4-sulfonic acid pyridin-3-yl ester | N1=CC(=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H11NO3S
reactant | 1-heptyne | C#CCCCCC | C7H12
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 3-Hept-1-ynyl-pyridine | C(#CCCCCC)C=1C=NC=CC1 | C12H15N
